US05461143
A solution of allyl 2-acetamido-3,4,6-tri-O-acetyl-2-deoxy-α-D-mannopyranoside, prepared as described above, (6.46 g, 16.7 mmol) and methanolic NaOMe (2 mL; 1M solution) in MeOH (100 mL) was stirred for two hours at room temperature, and neutralized by addition of Dowex 50W-X8 [H+]. After the resin was filtered off, the filtrate was concentrated followed by coevaporation with pyridine. A solution of tolylsulfonyl chloride (3.50 g, 18.3 mmol) in pyridine (20 mL) and CH2Cl2 (30 mL) was added dropwise to a cooled solution of the residue in pyridine (30 mL) and CH2Cl2 (50 mL) at 0°-5° C. over 30 minutes, and the mixture was stirred for 10 hours at room temperature then cooled. Acetic anhydride (30 mL) was added to the mixture, and the mixture was stirred for five hours at room temperature. The mixture was concentrated, and the residue was chromatographed on silica gel, with toluene-EtOAc (1:2), to give allyl 2-acetamido-3,4-di-O-acetyl-2-deoxy-6-O-tolylsulfonyl-α-D-mannopyranoside (3.68 g, 44% );

reactant | allyl 2-acetamido-3,4,6-tri-O-acetyl-2-deoxy-α-D-mannopyranoside | C(C)(=O)N[C@@H]1[C@@H](OCC=C)O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O | C17H25NO9
reactant | NaOMe | 1M, 2 mL | C[O-].[Na+]
reactant | tolylsulfonyl chloride | 18.3 mmol, 3.50 g | C1(=C(C=CC=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | Acetic anhydride | 30 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | MeOH | 100 mL | CO | CH4O
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
solvent | pyridine | 30 mL | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | allyl 2-acetamido-3,4-di-O-acetyl-2-deoxy-6-O-tolylsulfonyl-α-D-mannopyranoside | 3.68 g, 44% | C(C)(=O)N[C@@H]1[C@@H](OCC=C)O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COS(=O)(=O)C1=C(C=CC=C1)C | C22H29NO10S
